US04104273
c. 1-(3,4-dichlorobenzyl)-3-carboxy-4-methylpyrid-2-one
A solution of 11.5 g. (0.039 mole) of 1-(3,4-dichlorobenzyl)-3-cyano-4-methylpyrid-2-one in a mixture of 50 ml. of water and 100 ml. of conc. sulfuric acid heated overnight on a steam bath. Addition of the reaction mixture ot 3.1 of ice water results in the precipitation of product which is collected by filtration, washed with water and air dried at 40°-50° C. for 18 hr. to give 11 g. (90%) of product as a tan solid:m.p. 219°-221° C.; ν1710 cm. -1 (C=O); 8.19 (d, 1H, H6), 7.2-7.8 (m, 3H, phenyl protons), 6.59 (d, 1H, H5), 5.26 (s, 2H, benzyl methylene) and 2.51 (s, 3H, methyl).

reactant | 1-(3,4-dichlorobenzyl)-3-cyano-4-methylpyrid-2-one | 0.039 mole | ClC=1C=C(CN2C(C(=C(C=C2)C)C#N)=O)C=CC1Cl | C14H10Cl2N2O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
product | 1-(3,4-dichlorobenzyl)-3-carboxy-4-methylpyrid-2-one | ClC=1C=C(CN2C(C(=C(C=C2)C)C(=O)O)=O)C=CC1Cl | C14H11Cl2NO3
